* NGSPICE file created from state_machine.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_2 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__aoi22_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__aoi22_2 A1 A2 B1 B2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__and2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__and2_1 A1 A2 Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__oai21_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__oai21_1 A1 A2 B ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__or4_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__or4_1 A1 A2 A3 A4 Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_16 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dffrnq_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dffrnq_1 D RN CLK Q VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_2 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__aoi211_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__aoi211_1 A1 A2 B C ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_32 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_32 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__aoi21_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__aoi21_1 A1 A2 B ZN VDD VNW VPW VSS
.ends

.subckt state_machine VDD VSS boot_complete cal_done cal_start cal_timeout cfg_done
+ clk phase_offset_imported read_en rst_n soft_rst state_o[0] state_o[1] state_o[2]
XFILLER_3_68 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_4_Left_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xoutput10 _38_/Q state_o[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
Xoutput8 _34_/A1 cal_start VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XPHY_EDGE_ROW_6_Right_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_6_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput11 _39_/Q state_o[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
Xoutput9 _24_/ZN read_en VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
XTAP_TAPCELL_ROW_5_26 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xoutput12 _40_/Q state_o[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
X_29_ _26_/Z _29_/A2 _28_/Z _29_/B2 _37_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi22_2
XFILLER_3_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xclkload0 _40_/CLK clkload0/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_28_ _38_/Q _27_/B _28_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XFILLER_6_16 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_8_Left_18 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xload_slew13 _37_/A1 _36_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_4_71 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_27_ _38_/Q _27_/A2 _27_/B _29_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_26_ _38_/Q _26_/A2 _40_/Q _26_/A4 _26_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or4_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_7_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_8_29 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_4_73 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_25_ _25_/A1 _25_/A2 _26_/A4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
Xclkbuf_0_clk clk clkbuf_0_clk/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XTAP_TAPCELL_ROW_0_20 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_24_ _38_/Q _22_/Z _27_/B _24_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XTAP_TAPCELL_ROW_9_30 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_21 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_40_ _40_/D _40_/RN _40_/CLK _40_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_1_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_23_ _39_/Q _40_/Q _27_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XPHY_EDGE_ROW_3_Left_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_5_Right_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_9_31 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_22_ _39_/Q _40_/Q _22_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XFILLER_8_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
X_21_ _38_/Q _26_/A2 _40_/Q _34_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_2
X_20_ _20_/I _29_/B2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xinput1 boot_complete _27_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_7_Left_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_9_Right_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_24 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput2 cal_done _25_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput3 cal_timeout _25_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_6_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput4 cfg_done _20_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_6_27 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput5 phase_offset_imported _33_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput6 rst_n _40_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_2_Left_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_4_Right_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput7 soft_rst _37_/C VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_5_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_7_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xclkbuf_1_0__f_clk clkbuf_0_clk/Z _39_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
X_39_ _39_/D _40_/RN _39_/CLK _39_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_6_Left_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_38_ _38_/D _40_/RN _39_/CLK _38_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XPHY_EDGE_ROW_8_Right_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_2_21 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_4_6 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_37_ _37_/A1 _34_/B _37_/B _37_/C _40_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi211_1
XTAP_TAPCELL_ROW_1_22 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_5_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_36_ _40_/Q _36_/A2 _37_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_19_ _39_/Q _26_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_35_ _36_/A2 _35_/A2 _35_/B _37_/C _39_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi211_1
X_18_ _37_/C _30_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_34_ _34_/A1 _28_/Z _34_/B _35_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XPHY_EDGE_ROW_1_Left_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_33_ _33_/A1 _28_/Z _34_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XTAP_TAPCELL_ROW_4_25 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_5_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xclkbuf_1_1__f_clk clkbuf_0_clk/Z _40_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_32_ _39_/Q _36_/A2 _35_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_9_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_31_ _38_/Q _36_/A2 _31_/B _38_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi21_1
XFILLER_8_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_39 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_49 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_30_ _38_/Q _36_/A2 _30_/B _31_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XPHY_EDGE_ROW_5_Left_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_9_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_6_71 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_7_Right_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_7_28 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_8_28 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_8 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_51 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_7_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_9_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_6_73 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_9_Left_19 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_0_Left_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_5_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_6_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_0_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_2_23 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
.ends

