** sch_path: /workspace/Analog/schematics/2_mixer/5tota_tb.sch
**.subckt 5tota_tb Vout
*.opin Vout
V_PWR VDD GND 3.3
.save i(v_pwr)
V_IF Vif GND sin( 1 1 1 0 )
.save i(v_if)
V_IF_b Vif_b GND sin( 1 1 1 0 )
.save i(v_if_b)
I0 Ibias_30u GND 10u
x1 VDD Vout Vif Vif_b GND Ibias_30u 5tota
**** begin user architecture code
?


* Complete 5T OTA Verification Testbench for Gilbert Cell Interface

.control
    * ==========================================
    * SETUP CONFIGURATIONS & GLOBAL VARIABLES
    * ==========================================
    set freq_if = 312k
    set cm_if   = 2.0
    set amp_if  = 0.005

    * Pre-allocate vector space for clean file writing
    save all

    * ==========================================
    * TEST 1: DC OPERATING POINT & ICMR SWEEP
    * ==========================================
    *echo '=== Running Test 1: DC Input Common-Mode Range Sweep ==='

    * Configure inputs as matched DC sources for common-mode sweep
    alter @V_IF[sin]   = [ 2.0 0 0 0 ]
    alter @V_IF_b[sin] = [ 2.0 0 0 0 ]

    * Sweep the common mode from 0V to VDD (assuming 3.3V supply)
    dc V_IF 0 3.3 0.05

    * Scripted calculation to check where Gain remains flat
    setplot dc1
    let ota_dc_gain = deriv(v(Vout))
    plot ota_dc_gain xlimit 1.0 3.0 title 'OTA Gain vs Input Common Mode (ICMR)'

    * Show operating parameters of the OTA transistors at the nominal 2.0V common-mode
    *echo 'Transistor operating regions at nominal 2.0V common mode:'
    show all

    * ==========================================
    * TEST 2: AC ANALYSIS (GAIN, BW, PHASE MARGIN)
    * ==========================================
    *echo '=== Running Test 2: AC Open-Loop Analysis ==='

    * Reset DC levels to nominal Gilbert cell output, apply differential AC magnitudes
    alter @V_IF[dc]    = $cm_if
    alter @V_IF_b[dc]  = $cm_if
    alter @V_IF[acmag]  = 0.5
    alter @V_IF_b[acmag] = -0.5

    * Run AC analysis across a wide frequency grid
    ac dec 10 1 10G

    setplot ac1
    let mag_db = db(v(Vout))
    let phase_deg = ph(v(Vout)) * 180 / pi

    plot mag_db title 'OTA Open-Loop AC Magnitude'
    plot phase_deg title 'OTA Open-Loop AC Phase'

    * ==========================================
    * TEST 3: TRANSIENT ANALYSIS WITH REAL MIXER INPUTS
    * ==========================================
    *echo '=== Running Test 3: Transient Response ==='

    * Reconfigure voltage sources to deliver the 180-degree out-of-phase mixing product
    alter @V_IF[sin]   = [ $cm_if $amp_if $freq_if 0 ]
    alter @V_IF_b[sin] = [ $cm_if $amp_if $freq_if 0 0 180 ]

    * Run transient simulation (300u duration covers ~93 full cycles of 312kHz)
    tran 3n 300u

    setplot tran1
    plot v(Vif) v(Vif_b) v(Vout) title 'Transient Mixer-to-OTA Tracking Waveforms'

    * ==========================================
    * TEST 4: COMMON-MODE REJECTION RATIO (CMRR)
    * ==========================================
    *echo '=== Running Test 4: CMRR Analysis ==='

    * Force inputs to be perfectly in-phase (Common Mode AC perturbation)
    alter @V_IF[acmag]   = 1.0
    alter @V_IF_b[acmag] = 1.0

    ac dec 10 1 100meg

    setplot ac2
    let cm_gain_db = db(v(Vout))
    * Subtract common-mode gain from the previously stored differential gain vector
    let cmrr_db = ac1.mag_db - cm_gain_db

    plot cmrr_db title 'Common-Mode Rejection Ratio (CMRR) vs Frequency'

    * ==========================================
    * TEST 5: NOISE ANALYSIS
    * ==========================================
    *echo '=== Running Test 5: Noise Analysis ==='

    * Reset inputs back to clean DC biasing for quiet noise observation
    *alter @V_IF[acmag]   = 0
    *alter @V_IF_b[acmag] = 0

    * Calculate input-referred and output noise across the IF baseband window
    *noise v(Vout) V_IF dec 10 10 1meg

    *setplot noise1
    *plot db(onoise_spectrum) db(inoise_spectrum) title 'Output and Input-Referred Noise (V^2/Hz)'

    * ==========================================
    * DATA EXPORT
    * ==========================================
    *echo '=== Exporting all simulation plots to raw file ==='
    set appendwrite = 0
    write /workspace/Analog/schematics/2_mixer/simulation_files/5tota_tb.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  Analog/schematics/2_mixer/5tota.sym # of pins=6
** sym_path: /workspace/Analog/schematics/2_mixer/5tota.sym
** sch_path: /workspace/Analog/schematics/2_mixer/5tota.sch
.subckt 5tota Vdd_3v3 Vout_5tota Vin_p_5tota Vin_m_5tota VSS Ibias_30uA_nmos
*.ipin Vdd_3v3
*.ipin Vin_p_5tota
*.ipin Vin_m_5tota
*.opin Vout_5tota
*.iopin Ibias_30uA_nmos
*.ipin VSS
*  Mnmos_amp_p -  nfet_03v3  IS MISSING !!!!
*  Mnmos_amp_n -  nfet_03v3  IS MISSING !!!!
*  Mpmos_cs_p -  pfet_03v3  IS MISSING !!!!
*  Mpmos_cs_n -  pfet_03v3  IS MISSING !!!!
.ends

.GLOBAL VDD
.GLOBAL GND
.end
