** sch_path: /workspace/Analog/schematics/2_mixer/mixer_tb.sch
**.subckt mixer_tb V_LO V_LO_b V_RF V_RF_b V_out_p V_out_n
*.ipin V_LO
*.ipin V_LO_b
*.ipin V_RF
*.ipin V_RF_b
*.opin V_out_p
*.opin V_out_n
I2 net1 GND 30u
V_PWR VDD GND 3.3
.save i(v_pwr)
V_LO V_LO GND pulse(0 1.5 0 1p 1p 0.25n 0.5n)
.save i(v_lo)
V_LO_b V_LO_b GND pulse(0 1.5 0 1p 1p 0.25n 0.5n)
.save i(v_lo_b)
V_RF V_RF GND sin( 1 1 1 0 )
.save i(v_rf)
V_RF_b V_RF_b GND sin( 1 1 1 0 0 180 )
.save i(v_rf_b)
I0 I_bias_pos GND 50u
I1 I_bias_neg GND 50u
V_PWR1 VSS GND 0
.save i(v_pwr1)
x1 V_out_n V_out_p V_LO V_LO_b V_RF V_RF_b I_bias_neg I_bias_pos GND VDD gilbert_mixer
x2 VDD Vif V_out_p V_out_n VSS net1 5tota
**** begin user architecture code
?


* let sets vectors to a plot, while set sets a variable, globally accessible in .control
.control

    * Set frequency and amplitude variables to proper values from within the control sequence
    * sine-wave LO
    * set cm_lo = 0.5
    * set freq_lo = 2.50G
    * set amp_lo = 0.5
    * alter @V_LO[sin] = [ $cm_lo $amp_lo $freq_lo 0 ]
    * alter @V_LO_b[sin] = [ $cm_lo $amp_lo $freq_lo 0 0 180 ]

    set freq_lo = 156k
    set cm_lo = 1.8
    set amp_lo = 0.4

    set cm_rf  = 1.2
    set freq_rf = 156k
    * set freq_rf = 10.7Meg
    set amp_rf  = 0.1

    * set the parameters to the voltage sources
    * alter @V_LO[pulse] = [ 2 2.5 0 0.5p 0.5p 5n 10n ]
    * alter @V_LO_b[pulse] = [ 2 2.5 5n 0.5p 0.5p 5n 10n]
    alter @V_LO[sin] = [ $cm_lo $amp_lo $freq_lo 0 ]
    alter @V_LO_b[sin] = [ $cm_lo $amp_lo $freq_lo 0 0 180 ]
    alter @V_RF[sin] = [ $cm_rf $amp_rf $freq_rf 0 ]
    alter @V_RF_b[sin] = [ $cm_rf $amp_rf $freq_rf 0 0 180 ]

    save all

    tran 100p 2m

    let if_out = v(v_out_p) - v(v_out_n)
    let vlo = v(v_lo) - v(v_lo_b)
    let vrf = v(v_rf) - v(v_rf_b)

    linearize v(vif) vlo vrf

    fft v(vif) vlo vrf

    plot db(mag(vlo)) db(mag(vrf)) db(mag(v(vif))) xlimit 0 400k

    write mixer_tb.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  Analog/schematics/2_mixer/gilbert_mixer.sym # of pins=10
** sym_path: /workspace/Analog/schematics/2_mixer/gilbert_mixer.sym
** sch_path: /workspace/Analog/schematics/2_mixer/gilbert_mixer.sch
.subckt gilbert_mixer Vout_n Vout_p vlo vlo_b vrf vrf_b Ibias_n_50uA Ibias_p_50uA VSS VDD_3v3
*.ipin vlo
*.ipin vlo_b
*.ipin vrf
*.ipin vrf_b
*.opin Vout_p
*.opin Vout_n
*.iopin Ibias_n_50uA
*.iopin Ibias_p_50uA
*.iopin VSS
*.iopin VDD_3v3
*  M_dp_lo_pos -  nfet_03v3  IS MISSING !!!!
*  M_dp_lo_neg -  nfet_03v3  IS MISSING !!!!
*  M_dp_lo_b_pos -  nfet_03v3  IS MISSING !!!!
*  M_dp_lo_b_neg -  nfet_03v3  IS MISSING !!!!
*  M_rf_pos -  nfet_03v3  IS MISSING !!!!
*  M_rf_neg -  nfet_03v3  IS MISSING !!!!
*  R_load_2 -  ppolyf_u_1k  IS MISSING !!!!
*  R_load_1 -  ppolyf_u_1k  IS MISSING !!!!
.ends


* expanding   symbol:  Analog/schematics/2_mixer/5tota.sym # of pins=6
** sym_path: /workspace/Analog/schematics/2_mixer/5tota.sym
** sch_path: /workspace/Analog/schematics/2_mixer/5tota.sch
.subckt 5tota Vdd_3v3 Vout_5tota Vin_p_5tota Vin_m_5tota VSS Ibias_30uA_nmos
*.ipin Vdd_3v3
*.ipin Vin_p_5tota
*.ipin Vin_m_5tota
*.opin Vout_5tota
*.iopin Ibias_30uA_nmos
*.ipin VSS
*  Mnmos_amp_p -  nfet_03v3  IS MISSING !!!!
*  Mnmos_amp_n -  nfet_03v3  IS MISSING !!!!
*  Mpmos_cs_p -  pfet_03v3  IS MISSING !!!!
*  Mpmos_cs_n -  pfet_03v3  IS MISSING !!!!
.ends

.GLOBAL GND
.GLOBAL VDD
.end
